US04341775
2-(2-Formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid (syn isomer, 1.62 g.) was added to a solution of N,N-dimethylformamide (432 mg.) and phosphoryl chloride (905 mg.) in tetrahydrofuran (16 ml.) and treated in a similar manner to that of Example 6-(1). The solution was added to a solution of 7-amino-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (3.0 g.) and triethylamine in 50% aqueous acetone (30 ml.) at -5° to -3° C. and pH 7 to 7.5 and stirred for 30 minutes. Ethyl acetate was added to the resultant solution and adjusted to pH 2.0 with 10% hydrochloric acid. After removing the insoluble substance by filtration, water and ethyl acetate were added to the filtrate. The ethyl acetate layer was separated and washed with saturated sodium chloride solution. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diethyl ether and the precipitates were collected by filtration to give 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.93 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetic acid | 1.62 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(=O)OC(C)(C)C | C12H15N3O6S
reactant | phosphoryl chloride | 905 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 3.0 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O | C16H23N7O5S2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 432 mg | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 2.93 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C28H36N10O10S3
